US06069176
To a solution of the trans-H compound, (1R)-1-(3-chlorophenyl)-2-[3-(3-ethoxycarbonylmethoxyphenyl)cyclohexylamino]ethanol (hydrochloride), obtained in Example 11 (220 mg) in ethanol (10 ml) there was added 1 N sodium hydroxide solution (2.5 ml), and the mixture was stirred at room temperature for 2 hours. After concentrating the reaction solution under reduced pressure, water (2 ml) was added, and after adding 1 N aqueous solution of hydrochloric acid (2.03 ml) while stirring and cooling on ice, the deposited crystals were filtered off and dried to give 153 mg of (2R)-(3-[3-[2-(3-chlorophenyl)-2-hydroxyethylamino]cyclohexyl]phenoxy) acetic acid (trans-H) as a white crystalline powder (81% yield).

reactant | Sodium (2R)-(2-[3-[2-(3-chlorophenyl)-2-hydroxyethylamino]cyclohexyl]phenoxy)acetate | ClC=1C=C(C=CC1)[C@H](CNC1CC(CCC1)C1=C(OCC(=O)[O-])C=CC=C1)O.[Na+]
reactant | (1R)-1-(3-chlorophenyl)-2-[3-(3-ethoxycarbonylmethoxyphenyl)cyclohexylamino]ethanol | ClC=1C=C(C=CC1)[C@H](CNC1CC(CCC1)C1=CC(=CC=C1)OCC(=O)OCC)O | C24H30ClNO4
reactant | sodium hydroxide | 1 N, 2.5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2R)-(3-[3-[2-(3-chlorophenyl)-2-hydroxyethylamino]cyclohexyl]phenoxy) acetic acid | 153 mg, 81% yield | ClC=1C=C(C=CC1)[C@H](CNC1CC(CCC1)C=1C=C(OCC(=O)O)C=CC1)O | C22H26ClNO4
